* BPW34 SPICE Macro-model        
* Description: Photodiode
* Generic Desc: Silicon, PIN type
* Developed by: P Rako
* Revision History: 
* 1.0 (8/2012) - PR - initial release
* 1.2 (9/2012) - PR - put new line before +
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html 
* for License Statement. Use of this model indicates your acceptance
* of the terms and provisions in the License Statement.
* 
*
* BEGIN Notes:
* 
* Not Modeled:
* Temperature effects
* Noise
* 
* Parameters modeled include:  
* Junction capacitance over reverse bias
* Rise/fall time
* Accepts external parameter for sensitivity (Sensy)
* Accepts external parameter for light spectrum (Spec)
* END Notes
*
* Node Assignments
*                         anode
*                         |   cathode
*                         |   |   light input as a voltage
*                         |   |   |
*                         |   |   |
*                         |   |   |
*                         |   |   |
.SUBCKT BPW34             A   C   P  PARAMS: Spec=1.0 Sensy=0.62
* 
*
* BPW34 from OSRAM 
* A = Anode
* C = Cathode
* P = (light)Power as a voltage input
Rdummy P 0 1G
Rswt P LP 14.3k
Cswt LP 0 1p
DPD A C PhotoDet
GPD C A TABLE {V(LP)* Spec * Sensy} (0,0) (1,1)
.MODEL PhotoDet D IS=2n RS=0.1 N=1.986196 BV=60 IBV=0.1n
+ CJO=72p VJ=0.455536 M=0.418717 TT=500n ISR=6p NR=100
.ends
